US04828837
Minoxidil/Cholesterol Sulfate/Liposome Composition
Cholesterol sulfate was converted to the free acid form by cation exchange chromatography in a methanol/chloroform/water (5:4:1) solvent. The free acid form (120 mgs) was dissolved in 2 ml of chloroform, and this solutions was added to a round bottom flask containing 40 mg minoxidil and 370 mgs of PC. The flask was gently agitated until the components were completely dissolved. The solution was dried to a thin lipid film in a round bottom flask with rotary evaporation and lyophilization, as above. A liposome suspension was prepared as in Example 8. No minoxidil crystal were observed in the suspension.

reactant | Cholesterol sulfate | S(=O)(=O)(O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H46O4S
reactant | methanol chloroform water | CO.C(Cl)(Cl)Cl.O
reactant | minoxidil | 40 mg | C=1C(=[N+](C(=NC1N2CCCCC2)N)[O-])N | C9H15N5O
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | Minoxidil Cholesterol Sulfate | C=1C(=[N+](C(=NC1N2CCCCC2)N)[O-])N.S(=O)(=O)(O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | InChI=1S/C27H46O4S.C9H15N5O/c1-18(2)7-6-8-19(3)23-11-12-24-22-10-9-20-17-21(31-32(28,29)30)13-15-26(20,4)25(22)14-16-27(23,24)5;10-7-6-8(12-9(11)14(7)15)13-4-2-1-3-5-13/h9,18-19,21-25H,6-8,10-17H2,1-5H3,(H,28,29,30);6H,1-5,10H2,(H2,11,12)/t19-,21+,22+,23-,24+,25+,26+,27-;/m1./s1
